US07399775B2
5-Chloro-2-[[1-(2,5-difluorophenyl)-5-(methylsulfonyl)pentyl]sulfonyl]pyridine
To a methanol (2 ml) solution of 5-chloro-2-[[1-(2,5-difluorophenyl)-5-(methylsulfonyl)pentyl]thio]pyridine (100 mg, 0.25 mmol) was added a water (2 ml) solution of Oxone (potassium peroxymonosulfate compound, 2 KHSO5.KHSO4.K2SO4) (303 mg, 0.49 mmol) at 0° C. After shaking at room temperature for 22 hours, the reaction mixture was added with dichloromethane and the mixture was washed with water. The organic layer was dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was subjected to flash chromatography on a silica gel column, and the fraction obtained from the hexane:ethyl acetate=1:1 eluate was concentrated under reduced pressure, whereby the title compound (61 mg, 0.14 mmol, 56%) was obtained as a colorless foam.

reactant | methanol | 2 ml | CO | CH4O
reactant | 5-chloro-2-[[1-(2,5-difluorophenyl)-5-(methylsulfonyl)pentyl]thio]pyridine | 0.25 mmol, 100 mg | ClC=1C=CC(=NC1)SC(CCCCS(=O)(=O)C)C1=C(C=CC(=C1)F)F | C17H18ClF2NO2S2
reactant | water | 2 ml | O | H2O
reactant | Oxone | 0.49 mmol, 303 mg | OOS(=O)[O-].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Chloro-2-[[1-(2,5-difluorophenyl)-5-(methylsulfonyl)pentyl]sulfonyl]pyridine | 0.14 mmol, 61 mg, 56% | ClC=1C=CC(=NC1)S(=O)(=O)C(CCCCS(=O)(=O)C)C1=C(C=CC(=C1)F)F | C17H18ClF2NO4S2
